US07842701B2
N-{2-[4-(2-hydroxyethyl)phenyl]-5-(4-methoxybenzyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-3-yl}acetamide
A mixture of 3-amino-2-[4-(2-hydroxyethyl)phenyl]-5-(4-methoxybenzyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (0.2 g) and acetic anhydride (2 ml) was heated under reflux for 5 hours. The reaction mixture was concentrated under reduced pressure, an aqueous sodium hydrogen carbonate solution was added thereto, and extracted with ethyl acetate. The extract was washed with water and saturated brine, and concentrated after drying. To the obtained crystal was added methanol (20 ml) and an 1N aqueous sodium hydroxide solution (0.5 ml), and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure, a 1N hydrochloric acid (0.5 ml) was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous sodium hydrogen carbonate solution, water and saturated brine, dried and concentrated to obtain the target compound (0.2 g).

reactant | 3-amino-2-[4-(2-hydroxyethyl)phenyl]-5-(4-methoxybenzyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 0.2 g | NC=1N(N=C2C1C(N(C=1C=CC=CC21)CC2=CC=C(C=C2)OC)=O)C2=CC=C(C=C2)CCO | C26H24N4O3
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-{2-[4-(2-hydroxyethyl)phenyl]-5-(4-methoxybenzyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-3-yl}acetamide | 0.2 g | OCCC1=CC=C(C=C1)N1N=C2C(C(N(C=3C=CC=CC23)CC2=CC=C(C=C2)OC)=O)=C1NC(C)=O | C28H26N4O4
